US07459448B2
2-{3-[9-Chloro-2-(3,4-dimethoxy-phenylamino)-6-oxo-5,6-dihydro benzo[b]pyrimido[4,5-d]azepin-7-yl]-propyl}-isoindole-1,3-dione (I-40-c)
In a manner similar to that described for method I (NaHCO3 used instead of K2CO3), 1-(3,4-dimethoxyphenyl)guanidine and 8-chloro-4-((dimethylamino)-methylene)-1-(3-(1,3-dioxoisoindolin-2-yl)propyl)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione (I-40-b) were converted to I-40-c and carried on crude: MS m/z═584 (M+H).

reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | 1-(3,4-dimethoxyphenyl)guanidine | COC=1C=C(C=CC1OC)NC(=N)N | C9H13N3O2
reactant | 8-chloro-4-((dimethylamino)-methylene)-1-(3-(1,3-dioxoisoindolin-2-yl)propyl)-3,4-dihydro-1H-benzo[b]azepine-2,5-dione | ClC=1C=CC2=C(N(C(CC(C2=O)=CN(C)C)=O)CCCN2C(C3=CC=CC=C3C2=O)=O)C1 | C24H22ClN3O4
product | 2-{3-[9-Chloro-2-(3,4-dimethoxy-phenylamino)-6-oxo-5,6-dihydro benzo[b]pyrimido[4,5-d]azepin-7-yl]-propyl}-isoindole-1,3-dione | ClC=1C=CC2=C(N(C(CC3=C2N=C(N=C3)NC3=CC(=C(C=C3)OC)OC)=O)CCCN3C(C2=CC=CC=C2C3=O)=O)C1 | C31H26ClN5O5
